data/mechanisms/records/IMS8-EQ8.37c.json
{"mechanism_id": "IMS8-EQ8.37c", "species": [{"species_id": "n_butane_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH3:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "n_propyl_cation", "mapped_smiles": "[CH2+:2][CH2:3][CH3:4]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["n_butane_radical_cation"]}, {"state_id": "state_products", "species_ids": ["methyl_radical", "n_propyl_cation"]}], "steps": [{"step_id": "step_sigma_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "sigma_dissociation", "semantics": "net_fragmentation", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "external", "atom_maps": []}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_8_37c", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_sigma_cleavage", "support_type": "textbook_proposed", "locator": {"page": 169, "equation": "8.37", "figure": null, "panel": null, "section": "8.6 Sigma-bond dissociation (sigma)"}, "confidence": 0.8, "curator_note": "Equation 8.37, line 3 of 3: 'OE+.  AB--C(+.)D  --sigma-->  AB. + CD+'. Same net outcome as line 1 (radical loss + even-electron carbenium, NO new pi bond) but drawn with the charge AND the odd electron BOTH localized on a single atom C (the superscript reads '+.' on C), i.e. the localized-valence picture of the OE ion rather than line 1's charge-on-the-bond picture. Homolysis of the drawn AB--C sigma bond expels AB. and leaves C's radical electron paired with the retained bonding electron -> closed-shell cation CD+. ARC COUNT (convention D): the book draws 0 curved arrows/fishhooks (straight sigma-labelled reaction arrow only). The 2 encoded electron_moves are IMPLICIT: move <1> routes one electron of the cleaving AB--C bond OUT of the system (external = the ionization hole), move <2> routes the other onto the departing carbon to form the radical; the retained carbon becomes the cation. INSTANTIATION (convention F): scheme is generic (A,B,C,D undefined, no m/z/intensity printed). Instantiated as the n-BUTANE radical cation cleaving a TERMINAL C1-C2 bond, mapping AB=CH3 (map 1, the leaving .CH3 radical), C=the adjacent carbon (map 2, the localized charge/radical centre), D=CH2CH3 (maps 3,4) -> so CD+ = n-propyl cation C3H7+. This is butane's dominant fragmentation (loss of CH3.); curator-computed detected ion m/z 43.0542 (C3H7+), derived from the instantiation, not from the page. LOCALIZATION (convention B): although the book localizes +/. on the single carbon C, a valence-correct SMILES for a di-coordinate carbon bearing both '+' and an unpaired electron is a non-physical graph abstraction (cf. the caveat in IMS4-EQ4.3); the precursor is therefore encoded as the neutral butane skeleton with charge/radical in the fields plus an external-hole electron move, the same house convention as line 1 and IMS4-EQ4.3."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 58.0777, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_c3h7", "species_id": "n_propyl_cation", "step_id": "step_sigma_cleavage", "observed_mz": 43.0542, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
